US04808711
Synthesis of 2-(2-formylamino-1,3-thiazol-4-yl)-2-ethoxalylaminoacetic acid tert-butyl ester
In 100 ml of methylene chloride was dissolved 5.5 g (21.4 mmole) of 2-amino-2-(2-formylamino-1,3-thiazol-4-yl)acetic acid tert-butyl ester, and 2.165 g (21.4 mmole) of triethylamine was added thereto. Then, the mixture was cooled to -45° C. and a solution of 2.92 g (21.4 mmole) of ethyl chlorooxalate dissolved in 10 ml of methylene chloride was added dropwise thereto for 10 minutes. Then, a cooling bath was removed, and the mixture was stirred for 30 minutes. After the mixture was washed with water, it was dried over anhydrous magnesium sulfate and the solvent was evaporated to obtain 7.5 g of the oily title compound. (Yield: 98%)

reactant | 2-amino-2-(2-formylamino-1,3-thiazol-4-yl)acetic acid tert-butyl ester | 21.4 mmole, 5.5 g | C(C)(C)(C)OC(C(C=1N=C(SC1)NC=O)N)=O | C10H15N3O3S
reactant | triethylamine | 21.4 mmole, 2.165 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorooxalate | 21.4 mmole, 2.92 g | C(C(=O)OCC)(=O)Cl | C4H5ClO3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-formylamino-1,3-thiazol-4-yl)-2-ethoxalylaminoacetic acid tert-butyl ester | 7.5 g, Yield: 98% | C(C)(C)(C)OC(C(NC(=O)C(=O)OCC)C=1N=C(SC1)NC=O)=O | C14H19N3O6S
